US08048878B2
Synthesis of 1-(4-bromobutyryl)-2-(3,4,5-trifluorophenyl)-2,3-dihydro-1H-pyridin-4-one
1.02 g of the title compound was obtained from 4-methoxypyridine (1.52 mL), 3,4,5-trifluorophenylmagnesium bromide (0.3 M solution in THF, 50 mL), and 4-bromobutyryl chloride (1.74 mL) according to the method described in Tetrahedron Letters, 1986, vol. 27, p. 4549-4552. The property values of the compound are as follows.

reactant | 4-methoxypyridine | 1.52 mL | COC1=CC=NC=C1 | C6H7NO
reactant | 4-bromobutyryl chloride | 1.74 mL | BrCCCC(=O)Cl | C4H6BrClO
reactant | 3,4,5-trifluorophenylmagnesium bromide | 0.3 M, 50 mL | FC=1C=C(C=C(C1F)F)[Mg]Br
product | 1-(4-bromobutyryl)-2-(3,4,5-trifluorophenyl)-2,3-dihydro-1H-pyridin-4-one | 1.02 g | BrCCCC(=O)N1C(CC(C=C1)=O)C1=CC(=C(C(=C1)F)F)F | C15H13BrF3NO2
